US04329471
To a stirred mixture of 98.1 g (1 mole) of 1,3-dihydro-4-methyl-2H-imidazol-2-one, 266.7 g (2 moles) of anhydrous aluminum chloride and 500 ml of nitrobenzene there is added dropwise over 10 minutes, 158.6 g (1 mole) of p-fluorobenzoyl chloride. The mixture is stirred at 60°-65° C. for 6 hours, then poured onto 2 kg of ice. The precipitate which forms is separated by filtration, washed with diethyl ether and water and recrystallized from dimethylformamide to give 1,3-dihydro-4-(4-fluorobenzoyl)-5-methyl-2H-imidazol-2-one melting at about 289°-292° C.

reactant | 1,3-dihydro-4-methyl-2H-imidazol-2-one | 1 mole, 98.1 g | CC=1NC(NC1)=O | C4H6N2O
reactant | aluminum chloride | 2 moles, 266.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | p-fluorobenzoyl chloride | 1 mole, 158.6 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | nitrobenzene | 500 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,3-dihydro-4-(4-fluorobenzoyl)-5-methyl-2H-imidazol-2-one | FC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C11H9FN2O2
